US04499269
(a) [6-Methoxy-2-imino-3(2H)-benzothiazolyl]-methyl-2,2-dimethyl-propanoate hydroiodide
A solution of 2-amino-6-methoxy benzothiazole (8.5 g) and iodomethyl pivalate (11.5 g) in dry dioxan (120 ml) was stored at room temperature for 7 days. The resulting solid was collected and dried to give the sub-title product (14 g), mp 191°-3° as a hemi-solvate with dioxan (n.m.r.).

reactant | 2-amino-6-methoxy benzothiazole | 8.5 g | NC=1SC2=C(N1)C=CC(=C2)OC | C8H8N2OS
reactant | iodomethyl pivalate | 11.5 g | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | dioxan | 120 ml | O1CCOCC1 | C4H8O2
product | [6-Methoxy-2-imino-3(2H)-benzothiazolyl]-methyl-2,2-dimethyl-propanoate hydroiodide | 14 g | I.COC1=CC2=C(N(C(S2)=N)C(C(C(=O)O)(C)C)C)C=C1 | InChI=1S/C14H18N2O3S.HI/c1-8(14(2,3)12(17)18)16-10-6-5-9(19-4)7-11(10)20-13(16)15;/h5-8,15H,1-4H3,(H,17,18);1H
